US04952580
To a stirred solution of 1.6 grams (0.01 mole) of 4-chlorobenzoic acid in 35 ml of acetonitrile was added 1.5 ml (0.01 mole) of 1,8-diazabicyclo[5.4.0]-undec-7-ene, followed by 1.9 grams (0.01 mole) of 4-bromo-1,1,2-trifluoro-1-butene. The reaction mixture was heated under reflux for four hours then allowed to cool to ambient temperature. Water, 25 ml, was added to the reaction mixture, and the reaction mixture was extracted with three 20 ml portions of diethyl ether. The combined extracts were washed in succession with one 25 ml portion of water, two 25 ml portions of aqueous 5% sodium hydroxide and, finally, one 25 ml portion of water. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to give 1.2 grams of (3,4,4-trifluoro-3-butenyl) 4-chlorobenzoate as an oil. The nmr and the ir spectra were consistent with the proposed structure.

reactant | 4-chlorobenzoic acid | 0.01 mole, 1.6 grams | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | 1,8-diazabicyclo[5.4.0]-undec-7-ene | 0.01 mole, 1.5 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-bromo-1,1,2-trifluoro-1-butene | 0.01 mole, 1.9 grams | BrCCC(=C(F)F)F | C4H4BrF3
reactant | Water | O | H2O
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | (3,4,4-trifluoro-3-butenyl) 4-chlorobenzoate | 1.2 grams | ClC1=CC=C(C(=O)OCCC(=C(F)F)F)C=C1 | C11H8ClF3O2
